US04576938
1-Acetoamido-5-mercapto-1H-tetrazole (1.59 g) was dissolved in anhydrous tetrahydrofuran (27 ml), and the mixture was refluxed. 70% Sodium bis(2-methoxyethoxy)aluminum hydride-toluene solution (5 ml) was added dropwise thereto under stirring. After the addition, the mixture was refluxed for 4 hours. The reaction mixture was evaporated under reduced pressure to remove solvent. Ice-water was added to the residue, and the aqueous solution thus obtained was adjusted to pH 3 with 20% sulfuric acid. The mixture was salted out with sodium chloride, and extracted with ethyl acetate. The extracts were washed with a saturated sodium chloride solution, dried and then evaporated to remove solvent. The residue was recrystallized from isopropyl ether-hexane (1:2) to give 0.97 g of 1-ethylamino-5-mercapto-1H-tetrazole as colorless prisms. mp 90°-91° C.

reactant | 1-Acetoamido-5-mercapto-1H-tetrazole | 1.59 g | C(C)(=O)NN1N=NN=C1S | C3H5N5OS
reactant | Sodium bis(2-methoxyethoxy)aluminum hydride toluene | 5 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-].C1(=CC=CC=C1)C
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | 1-ethylamino-5-mercapto-1H-tetrazole | 0.97 g | C(C)NN1N=NN=C1S | C3H7N5S
